US04929741
A solution of 8.4 ml (0.1 mol) of methyl propiolate in 100 ml of tetrahydrofuran was treated at -78° under argon with 68.8 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 11.8 ml (0.1 mol) of 4-methylbenzaldehyde in 100 ml of tetrahydrofuran was added within 40 minutes. The reaction mixture was stirred at -78° for a further 20 minutes, then brought to room temperature and treated with 100 ml of saturated ammonium chloride solution The aqueous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained methyl 4-hydroxy-4-(4-methylphenyl)-2-butynoate as a yellow oil.

reactant | methyl propiolate | 0.1 mol, 8.4 ml | C(C#C)(=O)OC | C4H4O2
reactant | n-butyllithium | 1.6M, 68.8 ml | C(CCC)[Li]
reactant | 4-methylbenzaldehyde | 0.1 mol, 11.8 ml | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 4-hydroxy-4-(4-methylphenyl)-2-butynoate | OC(C#CC(=O)OC)C1=CC=C(C=C1)C | C12H12O3
